US07910585B2
To a suspension of 7-amino-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one (1.62 g, 5.6 mmol) and potassium carbonate (2.55 g, 8.7 mmol) in dimethylsulfoxide (30 mL), 2, 4, 5-trichloropyrimidine (970 μL, 8.4 mmol) is added and stirred at 70° C. for 4 hours. To the mixture is added 2,4,5-trichloropyrimidine (650 μL, 5.6 mmol) and the mixture is stirred at 70° C. for 6 hours. The mixture is cooled and then extracted twice with dichloromethane. The organic layer is successively washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue is purified by silica gel column chromatography to afford 7-(2,5-dichloro-pyrimidin-4-ylamino)-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one (1.95 g) as yellow solids in 80% yield. Rf=0.26 (MeOH/AcOEt=1/4). 1H-NMR (400 MHz, CDCl3, δ, ppm): 1.13 (s, 3H), 1.14 (s, 3H), 2.87-2.69 (m, 5H), 3.18-3.08 (m, 4H), 3.22 (s, 3H), 4.40 (s, 2H), 7.20 (d, 1H), 8.20 (s, 1H), 8.66 (d, 1H), 11.0 (s, 1H).

reactant | 7-amino-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one | 5.6 mmol, 1.62 g | NC=1C=CC(=C2CN(C(C12)=O)C)N1CCN(CC1)C(C)C | C16H24N4O
reactant | potassium carbonate | 8.7 mmol, 2.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2, 4, 5-trichloropyrimidine | 8.4 mmol, 970 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2,4,5-trichloropyrimidine | 5.6 mmol, 650 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 7-(2,5-dichloro-pyrimidin-4-ylamino)-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one | 1.95 g, 80% yield | ClC1=NC=C(C(=N1)NC=1C=CC(=C2CN(C(C12)=O)C)N1CCN(CC1)C(C)C)Cl | C20H24Cl2N6O
